US08956589B2
Triethylamine 270 mg was added under room temperature to a THF 10 mL solution containing 1,7-bis(4′-hydroxy-3′-trifluoromethoxyphenyl)-4-methoxycarbonylethyl 1,6-heptadiene 3,5-dione 500 mg and acetic anhydride 272 mg, and the resultant solution was agitated for 2 hours at room temperature. After the reaction was ended, water was poured, and the resultant solution was subjected to extraction with ethyl acetate. The extract was dried with sodium sulfate, and the solvent was removed. The crystal residue was washed with a small quantity of ethanol, filtered, and dried, whereby 430 mg of 1,7-bis(4′-acetoxy-3′-trifluoromethoxyphenyl)-4-methoxycarbonylethyl-1,6-heptadiene-3,5-dione having a melting point of 149 to 150° C. was obtained.

reactant | Triethylamine | 270 mg | C(C)N(CC)CC | C6H15N
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | 1,7-bis(4′-hydroxy-3′-trifluoromethoxyphenyl)-4-methoxycarbonylethyl 1,6-heptadiene 3,5-dione | 500 mg | OC1=C(C=C(C=C1)C=CC(C(C(C=CC1=CC(=C(C=C1)O)OC(F)(F)F)=O)CCC(=O)OC)=O)OC(F)(F)F | C25H20F6O8
reactant | acetic anhydride | 272 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 1,7-bis(4′-acetoxy-3′-trifluoromethoxyphenyl)-4-methoxycarbonylethyl-1,6-heptadiene-3,5-dione | 430 mg | C(C)(=O)OC1=C(C=C(C=C1)C=CC(C(C(C=CC1=CC(=C(C=C1)OC(C)=O)OC(F)(F)F)=O)CCC(=O)OC)=O)OC(F)(F)F | C29H24F6O10
